US07151096B2
Nitric acid (70%, 6.66 mL) is added to a mixture of 3-amino benzoic acid ethyl ester (17.21 g, 104 mmol) and cyanamide (50% in water, 12.1 mL, 156 mmol) in 50 mL of ethanol. The reaction mixture is heated for 24 hours under reflux. It is then cooled to room temperature and filtered. The solid is washed with water, ether and dried to give 3-ethoxycarbonyl-phenyl-guanidine nitrite as a gray solid; ESI-MS (m/z): 208.1 (M+-HNO3+H).

reactant | Nitric acid | 6.66 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3-amino benzoic acid ethyl ester | 104 mmol, 17.21 g | C(C)OC(C1=CC(=CC=C1)N)=O | C9H11NO2
reactant | cyanamide | 156 mmol, 12.1 mL | N#CN | CH2N2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-ethoxycarbonyl-phenyl-guanidine nitrite | N(=O)O.C(C)OC(=O)C=1C=C(C=CC1)NC(=N)N | InChI=1S/C10H13N3O2.HNO2/c1-2-15-9(14)7-4-3-5-8(6-7)13-10(11)12;2-1-3/h3-6H,2H2,1H3,(H4,11,12,13);(H,2,3)
